US05639902
DIETHYL METHYLPHOSPHONATE
188 g (1.32 mol) of methyl iodide are poured under nitrogen into a dry three-necked flask surmounted by an alcohol condenser (-10° C.), and then heated to the refluxing temperature. 168 g (1.02 mol) of triethyl phosphite are then added dropwise. The reaction is exothermic, and the temperature rises in the course of one hour to 73° C. The temperature of the mixture is maintained for one hour at between 70° and 75° C., and the solution is then cooled and concentrated in a rotary evaporator. The diethyl methylphosphonate is distilled under nitrogen, under reduced pressure.

reactant | methyl iodide | 1.32 mol, 188 g | CI | CH3I
reactant | triethyl phosphite | 1.02 mol, 168 g | P(OCC)(OCC)OCC | C6H15O3P
product | DIETHYL METHYLPHOSPHONATE | CP(OCC)(OCC)=O | C5H13O3P
